US08685964B2
Step 1: 1-(6-Bromopyridin-2-yl)-2-methoxyethanone
14.5 g (61.2 mmol) of 2,6-dibrompyridine were dissolved in about 50 ml of THF, and 35 ml of 2 M isopropylmagnesium chloride (corresponds to 70 mmol) were added under argon. The temperature of the mixture increased. The mixture was stirred at room temperature for another 1.5 h and at 30° C. for 2 h and then cooled in a CO2/EtOH bath, and a solution of 8 g (68.2 mmol) of 2-methoxy-N,N-dimethylacetamide in THF was added, the thickened reaction material was diluted with more THF and allowed to thaw, ethyl acetate, aq. citric acid, dil. aqueous sodium hydroxide solution to pH=6, aq. NaCl were added, the aqueous phase was extracted three times with ethyl acetate and the combined organic phases were dried with MgSO4 and concentrated by evaporation. The residue was distilled under reduced pressure in a kugelrohr and the distillate was recrystallized from a little benzotrifluoride.

reactant | 2,6-dibrompyridine | 61.2 mmol, 14.5 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | isopropylmagnesium chloride | 70 mmol, 2 M, 35 ml | C(C)(C)[Mg]Cl
reactant | 2-methoxy-N,N-dimethylacetamide | 68.2 mmol, 8 g | COCC(=O)N(C)C | C5H11NO2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | sodium hydroxide | [OH-].[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | THF | about 50 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(6-Bromopyridin-2-yl)-2-methoxyethanone | BrC1=CC=CC(=N1)C(COC)=O | C8H8BrNO2
